US04734416
The thus-obtained 42 g of 5,6-dichloro-8-methoxy-3,4-dihydrocarbostyril are dispersed in 500 ml of 47%-hydrobromic acid aqueous solution and heated for 4 hours under refluxing conditions. After cooling the reaction mixture, the insoluble matter is separated by filtration, washed with water and dried. The crude crystals thus obtained are recrystallized from methanol to obtain 29 g of 5,6-dichloro-8-hydroxy-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 233°-235° C.

reactant | 5,6-dichloro-8-methoxy-3,4-dihydrocarbostyril | 42 g | ClC1=C2CCC(NC2=C(C=C1Cl)OC)=O | C10H9Cl2NO2
reactant | hydrobromic acid | Br | BrH
product | 5,6-dichloro-8-hydroxy-3,4-dihydrocarbostyril | 29 g | ClC1=C2CCC(NC2=C(C=C1Cl)O)=O | C9H7Cl2NO2
